US04579859
A solution of 2,3-dichlorobenzaldehyde (0.70 g), 3-nitrooxy-2,2-bis(nitrooxymethyl)propyl ester of acetoacetic acid (1.42 g) and 2-(N-benzyl-N-methylamino)ethyl 3-aminocrotonate (0.99 g) in tert-butyl alcohol (3 ml) was heated for 2 hours at 60° C. and then refluxed for additional 5.5 hours. The resulting mixture was cooled to 25° C. and concentrated under reduced pressure. The residue obtained was subjected to column chromatography on silica gel (54 g) and eluted with a mixture of chloroform and methanol (100:1 by volume). The fractions containing the desired compound were collected and evaporated under reduced pressure to give yellow viscous oil. The oil was again subjected to column chromatography on silica gel (27 g) and eluted with a mixture of toluene and ethyl acetate (5:2 by volume). The fractions containing the desired compound were collected and evaporated under reduced pressure. The obtained residue in ethanol was treated with hydrogen chloride in ethanol. The solvent was removed by distillation under reduced pressure to give amorphous yellow powders of 3-nitrooxy-2,2-bis(nitrooxymethyl)propyl ester of 5-[2-(N-benzyl-N-methylamino)ethoxycarbonyl]-4-(2,3-dichlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3-carboxylic acid hydrochloride (0.40 g).

reactant | 2,3-dichlorobenzaldehyde | 0.70 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | acetoacetic acid | 1.42 g | C(CC(=O)C)(=O)O | C4H6O3
reactant | 2-(N-benzyl-N-methylamino)ethyl 3-aminocrotonate | 0.99 g | N\C(=C/C(=O)OCCN(C)CC1=CC=CC=C1)\C | C14H20N2O2
solvent | tert-butyl alcohol | 3 ml | C(C)(C)(C)O | C4H10O
product | 5-[2-(N-benzyl-N-methylamino)ethoxycarbonyl]-4-(2,3-dichlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3-carboxylic acid hydrochloride | 0.40 g | Cl.C(C1=CC=CC=C1)N(C)CCOC(=O)C=1C(C(=C(NC1C)C)C(=O)O)C1=C(C(=CC=C1)Cl)Cl | InChI=1S/C25H26Cl2N2O4.ClH/c1-15-20(24(30)31)22(18-10-7-11-19(26)23(18)27)21(16(2)28-15)25(32)33-13-12-29(3)14-17-8-5-4-6-9-17;/h4-11,22,28H,12-14H2,1-3H3,(H,30,31);1H
